Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Cephalosporins
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ man with a history of anxiety & depression 
who presented to the ED with 4 days of pleuritic right subcostal 
pain with cough and dyspnea, scant hemoptysis, and was diagnosed 
with a PE. 

Patient states symptoms began 4 days ago. Dyspnea woke him up 
from sleep with right subcostal pain. He worked on ___ 
as a ___, but next day could not tolerate symptoms and went 
to the ED. He denies any recent travel. No leg swelling, no 
history of malignancy, no recent immobilization or surgery. 

He was seen in the ED and initially discharged with abx for 
likely PNA, but was later called back given elevated D-dimer and 
sub-segmental PE.

In the ED:
-Initial VS were 98.4 68 140/61 18 100% RA.  
-Exam normal
-Labs showed WBC 14.4, D-DIMER 572
-Imaging showed filling defect within a single right lower lobe 
pulmonary artery subsegmental pulmonary artery representing 
acute pulmonary embolism 
-Received Heparin 5400 unit bolus, then heparin gtt started at 
1200
-Transfer VS were 98.1 99 ___ 99% RA 
-Decision was made to admit to medicine for further management.  


On arrival to the floor, patient reports feels well, pain w/ 
inspiration only in right subcostal region. No CP, SOB, or 
dizziness/LH at rest.

 
Past Medical History:
- ___ (1 ppd)
- Marijuana (daily)
- Anxiety
- Depression
- no h/o clot or PE
 
Social History:
___
Family History:
No clot history. No family history of cancer, DM or HTN as far 
as patient knows.
 
Physical Exam:
ADMISSION EXAM
======================================
VS:  97.9 145/70 71 18 99 RA 
Wt 170lbs Ht 5ft 7in BMI 26.6
GENERAL: WDWN, NAD  
HEENT: EOMI, no icterus or injection, MMM
NECK: no LAD, no JVD  
HEART: RRR, normal S1/S2, no m/r/g, no thrills/heaves
LUNGS: Slightly decreased breath sounds in RLL, no wheezes, 
rales, rhonchi. Breathing comfortably without use of accessory 
muscles.   
ABDOMEN: Soft, NDNT, +BS, no HSM
EXTREMITIES: no erythema, edema, or palpable cord 
NEURO: Normal mental status, CN grossly intact
SKIN: Warm, no petechiae or bruises

DISCHARGE EXAM
======================================
Unchanged (discharged several hours after admission)
 
Pertinent Results:
LABS
==============================
___ 11:56PM BLOOD WBC-14.4* RBC-4.39* Hgb-13.0* Hct-39.5* 
MCV-90 MCH-29.6 MCHC-32.9 RDW-12.0 RDWSD-39.7 Plt ___
___ 11:56PM BLOOD Neuts-78.4* Lymphs-12.3* Monos-7.8 
Eos-0.7* Baso-0.3 Im ___ AbsNeut-11.29* AbsLymp-1.77 
AbsMono-1.12* AbsEos-0.10 AbsBaso-0.05
___ 10:54AM BLOOD ___ PTT-38.8* ___
___ 11:56PM BLOOD Glucose-94 UreaN-17 Creat-0.8 Na-138 
K-4.0 Cl-102 HCO3-24 AnGap-16
___ 10:54AM BLOOD ALT-19 AST-19 LD(___)-175 AlkPhos-81 
Amylase-86 TotBili-0.5
___ 11:56PM BLOOD D-Dimer-572*
___ 10:54AM BLOOD CRP-50.7*

___ 11:56PM BLOOD Ret Aut-1.3 Abs Ret-0.06
___ 10:54AM BLOOD Iron-78
___ 10:54AM BLOOD calTIBC-270 Hapto-215* Ferritn-150 
TRF-208

MICRO
===============================
None

IMAGING / STUDIES
===============================
___ Imaging CHEST (PA & LAT) 
FINDINGS:    
Heart size is normal.  The mediastinal and hilar contours are 
normal. The 
pulmonary vasculature is normal.  Minimal patchy right opacity 
in the right lower lobe is present.  Remainder the lungs are 
otherwise clear.  No pleural effusion or pneumothorax is seen. 
There are no acute osseous abnormalities. 
IMPRESSION:  
Minimal patchy right basilar opacity which could reflect an area 
of infection in the correct clinical setting. 

___ Imaging CTA CHEST  
IMPRESSION:  
1. Filling defect within a single right lower lobe subsegmental 
pulmonary 
artery representing acute pulmonary embolism. 
2. Round area of dense peripheral consolidation with central 
ground-glass 
opacity within the right lower lobe measuring up to 2.8 cm, 
representing 
ischemia/hemorrhage. 
3. Additional 5 mm solid nodule within the left lower lobe of 
uncertain 
significance in a patient of this age. 

 
Brief Hospital Course:
___ yo man healthy except ___ use, 
anxiety/depression, admitted for acute hemodynamically stable 
PE. 

# Unprovoked acute pulmonary embolism with pulmonary infarction
Patient presented with 4 days of pleuritic right subcostal pain 
with cough, dyspnea, and scant hemoptysis. CT scan found right 
lower lobe pulmonary artery subsegmental defect c/w acute 
pulmonary embolism, with adjacent 2.8 cm pulmonary infarction 
with hemorrhage. He was started on IV heparin in the ED. His H/H 
remained stable and he had no evidence of bleeding. He remained 
hemodynamically stable without tachycardia or hypoxemia. His 
chest pain improved without narcotics. He was counseled on the 
various options for longterm anticoagulation, and he and his 
mother decided on ___. No etiology of PE was discovered (no 
recent travel, no prior clots, no trauma, no family history of 
clots)

# ___ use
Nicotine replacement provided and cessation encouraged.

========================
TRANSITIONAL ISSUES
=========================
# ___: Patient should take 10mg BID x7 days, then 5mg BID 
ongoing after that. Anticoagulation should continue for at least 
6 months, and likely should be ongoing since unprovoked PE.
# UNPROVOKED PE: Consider hypercoagulability workup (deferred in 
setting of acute PE since high likelihood of false positives and 
false negatives), referral to Hematologist.
# ANEMIA: Hb 13.0, low for young male. Reticulocytes low, iron 
studies wnl. Consider smear, further workup.
# LLL NODULE on CTA: unclear significance in young patient per 
radiology. Consider surveillance imaging.

# CODE: Full
# CONTACT: ___ (Home)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 100 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg 2 
tablet(s) by mouth q8 hours Disp #*50 Tablet Refills:*0 
2.  ___ 5 mg PO BID 
RX ___ [Eliquis] 5 mg ___ tablet(s) by mouth BID (as 
directed) Disp #*70 Tablet Refills:*0 
3.  Naproxen 500 mg PO Q12H:PRN Pain - Mild 
RX *naproxen 500 mg 1 tablet(s) by mouth q12 hours Disp #*50 
Tablet Refills:*0 
4.  Sertraline 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
- pulmonary embolism with pulmonary infarction

SECONDARY DIAGNOSES
- ___ use
- lung nodule

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you. You were admitted to ___ 
for chest pain and shortness of breath. You were found to have a 
blood clot in your lungs (called a pulmonary embolism). We 
treated you with a blood thinner called heparin. 

When you go home, it will be very important to take your blood 
thinner. Please take:
- ___ 10mg (2 pills) twice daily for 1 week
- After that, take ___ 5mg (1 pill) twice daily 

You have enough pills for 28 days. You will need to follow up 
with your primary care doctor for more pills. You will need to 
be on blood thinners for at least 6 months - this is VERY 
important for the blood clot in your lungs!

We also recommend that you quit smoking, and encourage you to 
talk more about this with you primary care doctor.

If you have any chest pain, shortness of breath, dizziness, or 
passing out, please call your doctor immediately.

We wish you all the best in the future.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___